US05210239
3,5-Diethoxy-2-hydroxy-4-methoxybenzoic acid
68 g of 2-bromo-3,5-diethoxy-4-methoxybenzoic acid prepared in Referential Example 4 was suspended in 260 ml of water and 32 g of caustic soda and 0.88 g of copper powder were added thereto. The mixture was heated at 120° C. for 3 hr while stirring, and then cooled. Carbon was added thereto, and the mixture was filtered through Celite. The filtrate was neutralized with 140 ml of 6 N hydrochloric acid and 1 l of chloroform was added thereto. The mixture was subjected to liquid-liquid separation. The organic phase was washed with water, dried and then concentrated to prepare 53 g of the crude product (ocherous solid).

reactant | 2-bromo-3,5-diethoxy-4-methoxybenzoic acid | 68 g | BrC1=C(C(=O)O)C=C(C(=C1OCC)OC)OCC | C12H15BrO5
reactant | caustic soda | 32 g | [OH-].[Na+]
solvent | water | 260 ml | O | H2O
catalyst | copper | 0.88 g | [Cu] | Cu
product | 3,5-Diethoxy-2-hydroxy-4-methoxybenzoic acid | C(C)OC=1C(=C(C(=O)O)C=C(C1OC)OCC)O | C12H16O6
